US09193733B2
Step 1. tert-butyl 4-{[6-(trifluoromethyl)pyridin-2-yl]oxy}piperidine-1-carboxylate
To a mixture of sodium hydride (0.88 g, 60% in mineral oil, 22 mmol) in tetrahydrofuran (50. mL) at 0° C. was added tert-butyl 4-hydroxypiperidine-1-carboxylate (4.4 g, 22 mmol, Aldrich). The mixture was stirred at room temperature for one hour. A solution of 2-chloro-6-(trifluoromethyl)pyridine (2.0 g, 11 mmol, Oakwood) in tetrahydrofuran (10 mL) was added. The mixture was stirred at room temperature for 2 days. The mixture was quenched by the addition of water, and the product was extracted with EtOAc. The extract was washed with water, followed by brine, was dried over sodium sulfate, filtered and concentrated. Flash chromatography on a 120 g silica gel cartridge, eluting with a gradient from 0-15% EtOAc in hexanes afforded product as a colorless oil (3.8 g, 100%). 1H NMR (400 MHz, CDCl3) δ 7.75-7.64 (m, 1H), 7.23 (d, J=7.3 Hz, 1H), 6.88 (d, J=8.4 Hz, 1H), 5.27 (tt, J=7.7, 3.7 Hz, 1H), 3.83-3.66 (m, 2H), 3.31 (ddd, J=13.4, 8.5, 3.7 Hz, 2H), 1.99 (ddt, J=13.3, 6.9, 3.7 Hz, 2H), 1.73 (dtd, J=12.3, 8.1, 3.9 Hz, 2H), 1.47 (s, 9H). 19F NMR (376 MHz, CDCl3) δ −68.94 (s). LCMS (M-tBu+H)+: 291.0.

reactant | sodium hydride | 22 mmol, 0.88 g | [H-].[Na+]
reactant | tert-butyl 4-hydroxypiperidine-1-carboxylate | 22 mmol, 4.4 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | 2-chloro-6-(trifluoromethyl)pyridine | 11 mmol, 2.0 g | ClC1=NC(=CC=C1)C(F)(F)F | C6H3ClF3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-{[6-(trifluoromethyl)pyridin-2-yl]oxy}piperidine-1-carboxylate | FC(C1=CC=CC(=N1)OC1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C16H21F3N2O3
